US07795250B2
Step 1: Methyl 2-bromo-1-(2-tert-butoxy-2-oxoethyl)-3-cyclohexyl-1H-indole-6-carboxylate
A solution (0.1 M) of methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate in DMF was treated at 0° C. with NaH (1.3 eq.) and then stirred at 25° C. for 1 h. The solution was treated with tert-butylbromoacetate (1.2 eq.) and stirred 25° C. for 12 h. The mixture was diluted with EtOAc and washed sequentially with HCl (1 N) and brine. The dried organic phase was concentrated and the residue purified by flash chromatography on silica gel (5:95 EtOAc/PE) to afford the title compound (83%) as a colorless solid. 1H NMR (300 MHz, DMSO-d6, 300 K) δ 1.31-1.53 (m, 3H), 1.42 (s, 9H), 1.64-2.02 (m, 7H), 2.77-2.96 (m, 1H), 3.88 (s, 3H), 5.12 (s, 2H), 7.68 (dd, J 8.4, 1.2, 1H), 7.84 (d, J 8.4, 1H), 8.16 (d, J 1.2, 1H); MS (ES+) m/z 452 (M+H)+.

reactant | methyl 2-bromo-3-cyclohexyl-1H-indole-6-carboxylate | 0.1 M | BrC=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C16H18BrNO2
reactant | NaH | 1.3 eq. | [H-].[Na+]
reactant | tert-butylbromoacetate | 1.2 eq. | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 2-bromo-1-(2-tert-butoxy-2-oxoethyl)-3-cyclohexyl-1H-indole-6-carboxylate | 83% | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CC(=O)OC(C)(C)C | C22H28BrNO4
